US05037824
A mixture of 2-cyano-5-formylthiophene (4 g) and benzoylmethylenetriphenylphosphorane (11.09 g) in tetrahydrofuran (40 ml) was refluxed for 30 minutes. The reaction mixture was evaporated in vacuo to give 3-(5-cyano-2-thienyl)-1-phenyl-2-propen-1-one (3.95 g).

reactant | 2-cyano-5-formylthiophene | 4 g | C(#N)C=1SC(=CC1)C=O | C6H3NOS
reactant | benzoylmethylenetriphenylphosphorane | 11.09 g | C(C1=CC=CC=C1)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21OP
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(5-cyano-2-thienyl)-1-phenyl-2-propen-1-one | 3.95 g | C(#N)C1=CC=C(S1)C=CC(=O)C1=CC=CC=C1 | C14H9NOS
